US08039460B2
Step C: tert-Butyl [(3R,6S)-1-acetyl-2-(aminomethyl)-6-(2,3-difluorophenyl)azepan-3-yl]carbamate
Raney-Nickel (2800, slurry in water; washed with ethyl alcohol (2×); 0.5 g) was added to a solution of tert-butyl [(3R,6S)-1-acetyl-2-cyano-6-(2,3-difluorophenyl)azepan-3-yl]carbamate (80.0 mg, 0.20 mmol) in ethanol (10 mL). Ammonia gas was bubbled to the reaction mixture for 3 minutes and the mixture was stirred under hydrogen at 40 psi. After 4 h, the reaction mixture was filtered and concentrated. MS 398.2 (M+1).

reactant | tert-butyl [(3R,6S)-1-acetyl-2-cyano-6-(2,3-difluorophenyl)azepan-3-yl]carbamate | 0.20 mmol, 80.0 mg | C(C)(=O)N1C([C@@H](CC[C@H](C1)C1=C(C(=CC=C1)F)F)NC(OC(C)(C)C)=O)C#N | C20H25F2N3O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Raney-Nickel | 0.5 g | [Ni] | Ni
product | tert-Butyl [(3R,6S)-1-acetyl-2-(aminomethyl)-6-(2,3-difluorophenyl)azepan-3-yl]carbamate | C(C)(=O)N1C([C@@H](CC[C@H](C1)C1=C(C(=CC=C1)F)F)NC(OC(C)(C)C)=O)CN | C20H29F2N3O3
